US05223526
5-Chloro-1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboxaldehvde:
DMF (106 mL) was stirred under N2 while cooling in an ice/salt bath to 0° C. POCl3 (364 mL) was added dropwise at a rate such that the temperature did not rise above 10° C. The mixture was then stirred at 0° C. briefly and 5-hydroxy-1-methyl-3-(trifluoromethyl)-1H-pyrazole (106 g) was added with constant stirring. The mixture was stirred while slowly heating to 90° C. As the temperature approached 90° C. the reaction became exothermic and HCl gas evolved. The temperature rose to reflux. After the exotherm subsided the mixture was heated at gentle reflux for 16 h. The dark amber solution was cooled to RT and then poured onto 3 kg ice with stirring. The mixture was mixed thoroughly with the ice and more ice added to maintain the temperature below 5° C. The resulting slurry was stirred continuously for 4 h with occasional addition of ice to maintain low temperature. The solid was separated from the liquid phase by drawing the aqueous phase through a sintered glass filter tube. The solid was reslurried with water (4×1 L) and then collected by filtration and air dried. The product was recrystallized from hexane which gave the desired compound as white needles (137 g). m.p. 39-41° C. An additional 30 g product was obtained by concentration of the mother liquor.

reactant | POCl3 | 364 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 5-hydroxy-1-methyl-3-(trifluoromethyl)-1H-pyrazole | 106 g | OC1=CC(=NN1C)C(F)(F)F | C5H5F3N2O
reactant | HCl | Cl | ClH
reactant | DMF | 106 mL | CN(C)C=O | C3H7NO
product | 5-Chloro-1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboxaldehvde | 137 g | ClC1=C(C(=NN1C)C(F)(F)F)C=O | C6H4ClF3N2O
